datasets/10k_Mayr_OG.csv
SMILES Labelled
CC[O:82][C:71]([C-:10](F)[C:61](=[O:62])[O:92]CC)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10](F)([C:20]1([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)[C:61](=[O:62])[O:92]CC)=[O:72] 10=20
"C/[N:10]=[C:11](/C(F)(F)F)[O-:12].FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[N:10]([C:11](C(F)(F)F)=[O:12])[S:20]C(F)F 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C)[C:24](=[O:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1.[CH:10](=[N+:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]2)[C:21]2=[CH:22][C:23](C)=[C:24]([O-:25])[C:33](C)=[CH:32]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C.C[N+:21](C1=CC=CC=C1)=[CH2:20]>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH2:20][N:21](C)C2=CC=CC=C2)[C@@H]1C(C)(C)C 10,11=10,20;12=11,12;20,21=21"
"CO[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]1>>CO[C:73]1=[CH:72][C:61]2=[C:62]([NH+:12]=[CH:11][CH:10]2[CH:20]([O:21]C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[CH:63]=[CH:64]1 10,11=10,20;12=11,12;20,21=21"
"COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1>>COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]([H:10])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C)[CH:83]=[CH:82]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12].COC1=CC=C(/[CH:42]=[CH:41]/[CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)C=C1>>CC[O:62][C:11]([CH:10]([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)/[CH:41]=[CH:42]/C1=CC=C(OC)C=C1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C[N+:21](C)=[CH2:20].[CH:10]1=[CH:11][CH:12]=[CH:13][O:14]1>>C[N:21](C)[CH2:20][CH:10]1[CH:11]=[CH:12][CH:13]=[O+:14]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[N+](C)(C)[BH2-:11][H:10].N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>C[N+](C)(C)[BH2:11].N#C[CH:20]([H:10])[CH:21]=[C:22]=[N-:23] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(CN2CC[N:14]3CCN(CC4=CC=CC=C4)[C:62]4=[CH:61][N:10]=[CH:11][C:12]2=[C:13]34)C=C1.[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>C1=CC=C(CN2CC[N+:14]3=[C:13]4[C:12]2=[CH:11][N:10]([CH:20]2[CH:21]=[C:22]([O-:23])[O:43][C:31]2=[O:32])[CH:61]=[C:62]4N(CC2=CC=CC=C2)CC3)C=C1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CN1[C@@H](C(C)(C)C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63].[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CN1[C@@H](C(C)(C)C)[NH+:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([P:22](C2=CC=CC=C2)(/[N:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)=[O:23])C=C1.C[SiH:11]([H:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1>>C1=CC=C([P:22](C2=CC=CC=C2)(=[N:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:36]=[CH:35]2)[O-:23])C=C1.C[SiH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:20](=[O:21])CC1.[CH-:10]([N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:81]#[N:82]>>C1CC[C:20]([CH:10]([N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)[C:81]#[N:82])([O-:21])CC1 10=20;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>CO[C:62]([CH:61]1CCC[NH+:10]1[CH:20]([CH:21]=[CH:22][N:23]1CCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:63] 10=20;20,21=21,22;22,23=23"
"C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[H][N-:10][C:61](C(F)(F)F)=[O:62]>>[H][N:10]([CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:61](C(F)(F)F)=[O:62] 10=20;20,21=21,22;22,23=23"
